US04161529
12 parts of 2-(4-phenoxyphenyl) pyrrolidine, 2.2 parts of ethylene oxide and 1 part of water were heated at 80° C. for 5 hours. After cooling, there were obtained 8 parts of 1-β-hydroxyethyl-2-(4-phenoxyphenyl) pyrrolidine, B.P./0.3 mm Hg: 179°-180° C.

reactant | 2-(4-phenoxyphenyl) pyrrolidine | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1NCCC1 | C16H17NO
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | water | O | H2O
product | 1-β-hydroxyethyl-2-(4-phenoxyphenyl) pyrrolidine | OCCN1C(CCC1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C18H21NO2
